US04107329
A mixture of (±)-methyl 2-[(4-phenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionate (28.1g.), potassium hydroxide (5.6g.), methanol (200ml.) and water (25ml.) is stirred at ambient temperature for 2.5 hours. The suspension is separated by filtration and the filtrate evaporated in vacuo. The residue is mixed with water, and the solution is washed with light petroleum (b.p. 60°-80° C). The aqueous phase is acidified with concentrated hydrochloric acid then extracted with ether. The extracts are dried (Na2SO4) and evaporated. The residue is crystallised from light petroleum (b.p. 80-100° C.) to give (±)-2-[(4-phenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionic acid (11.3g.), m.p. 132°-134° C.

reactant | (±)-methyl 2-[(4-phenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionate | 28.1g | C1(=CC=CC=C1)C1=CC=C(COC(C(=O)OC)(C(F)(F)F)C)C=C1 | C18H17F3O3
reactant | potassium hydroxide | 5.6g | [OH-].[K+]
reactant | methanol | 200ml | CO | CH4O
solvent | water | 25ml | O | H2O
product | (±)-2-[(4-phenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionic acid | 11.3g | C1(=CC=CC=C1)C1=CC=C(COC(C(=O)O)(C(F)(F)F)C)C=C1 | C17H15F3O3
